US05128417
The reactor which had been thoroughly dried and purged with nitrogen was charged with 77.0 mmol of diisobutylaluminum monochloride and 8.0 kg of liquefied 3-methylbutene-1 . The contents were heated to 70° C., and 9.05 g of the solid titanium trichloride catalyst complex as obtained in Preparation Example 1 was introduced under pressure into the reactor to start the polymerization. The polymerization was carried out while successively feeding butene-1. After 3.5 hours, 300 ml of isobutyl alcohol was introduced under pressure to stop the polymerization. The amount, of butene-1 supplied was 400 g. Subsequently the surplus unreacted monomer was removed from the reactor, and then 8.0 kg of n-hexane was introduced into the reactor. The resulting mixture was stirred at 50° C. for 30 minutes and then allowed to stand. The supernatant liquid was withdrawn, and the catalyst component in the polymer was removed by washing. This operation was repeated five times. Then, 0.2 parts of Irgafos PEPQ and 0.2 parts of Irganox 1010 were added, and the resulting mixture was dried to obtain 4.3 kg of a white powdery 3-methylbutene-1 /butene-1 copolymer.

reactant | butene-1 | CCC=C | C4H8
reactant | isobutyl alcohol | 300 ml | C(C(C)C)O | C4H10O
product | 3-methylbutene-1 butene-1 | 4.3 kg | CC(C)C=C.CCC=C | InChI=1S/C5H10.C4H8/c1-4-5(2)3;1-3-4-2/h4-5H,1H2,2-3H3;3H,1,4H2,2H3
